Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
erythromycin base / amoxicillin / Penicillins
 
Attending: ___.
 
Chief Complaint:
FALL
 
Major Surgical or Invasive Procedure:
NONE
 
History of Present Illness:
 ___ yo F with history of dementia, htn, hld, h/o c diff s/p 
colostomy who is admitted s/p mechanical fall, found to have a 
humerus fracture for which ortho recommended non operative 
management, who is now admitted due to delirium.

Per her caretaker ___, she was released from ___ 
___ months ago after admission to ___ for sepsis. She 
was initially getting 24 hr care, but this was gradually tapered 
back to 12 hour care during the day. On the morning of 
admission, she slipped in the bathroom (she normally waits for 
the asisstant to arrive in the morning to help her to the 
bathroom, but for some reason she went on her own without a 
walker). She pressed her lifeline and was taken to ___. 


Per ___: at baseline she knows the names of the people who 
come to the house, but she has severe memory loss (if you feed 
her, she won't remember what she ate an hour later). She does 
not know the year. She does remember her address and what she 
used to do for a living. She was at this baseline up until 
admission. She had not been complaining of SOB, cough, sputum, 
CP, abdominal pain, dysuria, lightheadedness, dizziness prior to 
admission.

At ___, she had extensive imaging w/u including: x ray 
right humerus with spiral fracture mid to distal humerus; neg 
pelvis and knee x ray, neg CT head and C spine, cxr with no 
infiltrate, UA negative. Of note BUN ___ from baseline 
___, WBC 14. She was transferred to ___, where Ortho 
recommended non operative management. She got morphine 8 mg 
total in the ED and became more confused, so she was admitted to 
the floor.

This morning, she is complaining of diffuse leg pain and of pain 
at the urethral meatus. She still does not know that she had a 
fall. She thinks she is at ___.

 
Past Medical History:
- dementia  
 - hypertension  
 - hyperlipidemia  
- h/o severe cdiff s/p colostomy  

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS:  98.5 150s/50s-60s ___ 20 97 RA.  
Gen: Pleasant appearing, laying in bed comfortably, breathing 
non-labored, right arm in brace and sling.  
HEENT:  PERRL moist mucous membranes, no elevated JVD.  
CV: RRR, soft systolic murmur.  
Pulm: Anterior auscultation clear to auscultation with no 
wheezes/rales or rhonchi.  
Abd: colostomy bag with brown stool in right lower quadrant, 
surgical scars from prior  
GU: foley in place.  urethral meatus non erytehmnatous. 
Ext: Trace pedal edema. Right arm in sling
Neuro: Right wrist drop, diminished grip strength in right hand. 
Describes slight numbness in her ___ fingers.  
Psych: Alert and oriented to person, her birthdate, what she 
used to do for a living. States that she is at ___. Unable 
to account events of the past 48 hrs. She states that it is 
___.

DISCHARGE PHYSICAL EXAM:
=======================
VS:  AF ___ 18 96 RA   
Gen: Pleasant appearing, laying in bed comfortably, breathing 
non-labored, right arm in brace and sling.  
HEENT:  PERRL moist mucous membranes, no elevated JVD.  
CV: RRR, soft systolic murmur.  
Pulm: Clear to auscultation with no wheezes/rales or rhonchi.  
Abd: colostomy bag with brown stool in right lower quadrant, 
surgical scars from prior. Additional ostomy w/ bag w/no output 
adjacent to colostomy bag.  
GU: no foley 
Ext: Trace pedal edema. Right arm in sling
Neuro: Right wrist drop, diminished grip strength in right hand. 
Today denies numbness in her hand.  
Psych: Alert and oriented to person, her birthdate, what she 
used to do for a living. Not oriented to date. Doesn't know 
she's in the hospital. Unable to account events of the past 48 
hrs. 

 
Pertinent Results:
ADMISSION LABS:
=================
___ 06:00AM BLOOD WBC-6.0 RBC-3.20* Hgb-9.2* Hct-29.1* 
MCV-91 MCH-28.8 MCHC-31.6* RDW-13.5 RDWSD-44.9 Plt ___
___ 06:00AM BLOOD Glucose-119* UreaN-28* Creat-1.0 Na-144 
K-3.9 Cl-109* HCO3-23 AnGap-16
___ 06:00AM BLOOD CK(CPK)-743*
___ 06:00AM BLOOD CK-MB-5 cTropnT-<0.01
___ 06:00AM BLOOD Calcium-9.0 Phos-3.1 Mg-1.7

PERTINENT RESULTS:
=====================
___ 06:00AM BLOOD WBC-7.1 RBC-3.16* Hgb-9.0* Hct-28.5* 
MCV-90 MCH-28.5 MCHC-31.6* RDW-13.3 RDWSD-44.1 Plt ___
___ 06:00AM BLOOD Glucose-117* UreaN-37* Creat-1.1 Na-144 
K-3.5 Cl-108 HCO3-21* AnGap-19

POSITIVE UA:
___ 03:50PM URINE CastHy-16*
___ 03:50PM URINE RBC-8* WBC->182* Bacteri-MOD Yeast-NONE 
Epi-5 TransE-<1
___ 03:50PM URINE Blood-SM  Nitrite-POS Protein-30 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG
___ 03:50PM URINE Color-Yellow Appear-Hazy Sp ___

STUDIES:
===============
___ FEMUR A/P LATERAL X RAY
No acute fracture or dislocation.  A moderate suprapatellar 
joint effusion.  
Moderate to severe osteoarthritic changes at the right knee. 

___ RIGHT HUMERUS X RAY
Spiral fracture through the midshaft of the right humerus with 
mild posterior 
displacement of the distal fracture fragment.  Significantly 
improved 
alignment in comparison to the prior examination. 

___ RIGHT HUMERUS X RAY
Re- demonstrated spiral fracture of the right humerus with 
increased posterior 
displacement of the distal fracture fragment. 
Mild posterior angulation of distal fracture component. 
Likely chronic superior subluxation of the humeral head related 
to rotator 
cuff tear. 

___ CT PELVIS
 
1. Posterior height loss, subtle cortical step off (best seen on 
sagittal 
view) and sclerosis at the S1 vertebral body worrisome for 
sacral 
insufficiency fracture/nondisplaced fracture.  No hip fracture. 
2. Wide diastases of the rectus abdominus and a wide-mouth 
ventral hernia 
containing multiple loops of nonobstructed small bowel similar 
to the study of 
___. 

 
Brief Hospital Course:
___ yo F with history of dementia, htn, hld, h/o c diff s/p 
colostomy who is admitted s/p mechanical fall, found to have a 
humerus fracture for which ortho recommended non operative 
management, who was admitted due to delirium.

ACTIVE ISSUES:
==============
#Right sided humerus fracture: Secondary to mechanical fall in 
bathroom (she normally waits for her aide to help her to the 
bathroom and uses a walker, but on the morning of admission she 
went to the BR w/o aide and w/o walker). Seen by ortho in ED. 
Found to have closed humerus fracture. She was found to have a 
radial nerve palsy on exam, but per ortho this is not an 
indication for surgical intervention. She was made non weight 
bearing to the right upper extremity; brace was placed for 
comfort. 

#Delirium: Pt became delirious after receiving 8 mg IV morphine 
in the ED. She was also found to have a CA-UTI which may have 
contributed to delirium. On the floor, she was paranoid at times 
though easily redirectable. She was otherwise at her baseline: 
alert/oriented to person/place but not date, able to perform 
simple tasks, able to recount distant past but not recent past. 
She did not require any medications for her delirium.

# Elevated CK: >400 at ___. This was likely secondary to 
fall.  She had no evidence of rhabdo.  

# Elevated CK-MB: MB index was 0.017, consistent with non 
cardiac etiology, and troponin was negative.

# Positive UA: UA negative at ___, but positive here after 
briefly having foley in place. Started on Bactrim DS given 
Bactrim sensitivity of prior e. coli UTIs in ___ records. 
Urine culture was pending at discharge. 

CHRONIC ISSUES:
==============
#Osteoporosis: continued on Vit D, Ca.

TRANSITIONAL ISSUES:
==============
-UTI: Culture pending at discharge. Started on Bactrim ___, 
continue up to and including ___.
-Home safety: prior to discharge from rehab, please assess home 
safety to determine whether or not patient requires greater than 
12 hr care at home.
-Pt taking aspirin full strength twice daily at home for unclear 
reasons (has Afib listed in PMH but this has not been observed 
while inpatient). Given fall risk, please reevaluate this 
regimen.
-Incidental small planum sphenoidale meningioma, unchanged from 
___ overall, noted on head CT. Consider follow up as 
outpatient if clinically indicated. 
-QTc prolonged (493 at admission to ___. Please avoid QTc 
prolonging agents.
-Please encourage PO intake.
-Please call ___ orthopedics to schedule a follow up 
appointment within two weeks of discharge ___. She has 
a sling on the right arm for comfort. She is cleared for full 
ROM in the right arm but is NON WEIGHT BEARING right arm. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO BID 
2. Vitamin D ___ UNIT PO DAILY 
3. Calcium Carbonate 500 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 325 mg PO BID 
2. Calcium Carbonate 500 mg PO DAILY 
3. Vitamin D ___ UNIT PO DAILY 
4. Acetaminophen 1000 mg PO Q8H 
5. Docusate Sodium 100 mg PO BID 
6. Senna 8.6 mg PO BID constipation 
hold for loose stools 
7. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 7 Days 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Right humeral fracture
advanced dementia

SECONDARY DIAGNOSES:
hypertension
colostomy
history of atrial fibrillation 

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Mental Status: Confused - always.

 
Discharge Instructions:
Dear Ms. ___:

You were admitted to ___ because you had a broken bone in your 
right arm as well as some confusion. Your confusion was most 
likely due to getting some pain medications that cause confusion 
as a side effect.

You were found to have a urinary tract infection for which you 
were treated with an antibiotic which you will continue for 7 
days (day ___.

It was a pleasure to care for you!
Your ___ Team
 
Followup Instructions:
___